US04528392
A. 3-[(4-acetyl-3-hydroxyphenoxy)methyl]nitrobenzene
A mixture of potassium carbonate (anhydrous, 31.7 g) and cesium carbonate (catalytic amount) is pulverized with mortar and pestle, then added to a solution of 2,4-dihydroxyacetophenone (35 g) in acetone (250 ml). The mixture is refluxed for 30 minutes. A solution of m-nitrobenzyl bromide (50 g) in acetone (100 ml) is added in one portion and the reaction refluxed for 3 days. After cooling to room temperature, water is added until a precipitate forms. The product is collected on a Buchner funnel, washed with water and ether. Recrystallization from acetone provides 36.9 g (56% yield) of needles, m.p. 117°-118° C.

reactant | potassium carbonate | 31.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,4-dihydroxyacetophenone | 35 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | m-nitrobenzyl bromide | 50 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
solvent | acetone | 250 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-[(4-acetyl-3-hydroxyphenoxy)methyl]nitrobenzene | 36.9 g, 56% yield | C(C)(=O)C1=C(C=C(OCC=2C=C(C=CC2)[N+](=O)[O-])C=C1)O | C15H13NO5
